US04012380
7-(2-Thienylacetamido)-3-acetyl-3-cephem-4-carboxylic acid.
To a cooled (5° C.) stirred slurry of 0.100 g. of benzhydryl 7-(2-thienylacetamido)-3-acetyl-3-cephem-4-carboxylate in 1 ml. of anisole was added 1 ml. of cold trifluoroacetic acid. The ester immediately dissolved. The resulting colorless solution was stirred with cooling for 20 minutes after which time approximately 40 ml. of n-heptane was added. The resulting solution was evaporated in vacuo to a low volume causing the precipitation of a white solid. The solid was filtered from the mixture and subsequently dissolved in acetone. The acetone solution was filtered and then evaporated in vacuo to dryness. The residue was dissolved in ethyl acetate, and the resulting solution was extracted three times with cold sodium bicarbonate solution. The aqueous extracts were combined, layered with ethyl acetate and acidified with 1N.HCl. The ethyl acetate layer was separated, washed with brine and dried over anhydrous sodium sulfate. Evaporation in vacuo to dryness gave 0.067 g. of the title product as a pale yellow solid which failed to crystallize from methylene chloride-hexane:

reactant | benzhydryl 7-(2-thienylacetamido)-3-acetyl-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O5S2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | n-heptane | CCCCCCC | C7H16
product | 7-(2-Thienylacetamido)-3-acetyl-3-cephem-4-carboxylic acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C(C)=O)C(=O)O)C1=O | C15H14N2O5S2
